US07186724B2
(1-Benzyl-piperidin-4-yl)-(2-fluoro-4-trifluoromethyl-phenyl)-methanone oxime.
A mixture of (1-benzyl-piperidin-4-yl)-(2-fluoro-4-trifluoromethyl-phenyl)-methanone (5.0 g, 13.66 mmol), hydroxylamine hydrochloride (1.1 g, 16.39 mmol) and pyridine (50 mL) was stirred at room temperature overnight when the mixture was distilled to remove pyridine (35 mL). The solid residue was washed with heptane then ether. The resulting solid was partitioned between a saturated solution of NaHCO3 and EtOAc. The organic layer was dried (MgSO4), filtered and evaporated. The solid residue was washed with 3:1 heptane/EtOAc and dried under vacuum to obtain 2.1 g (40%) of the desired product as a white solid.

reactant | (1-benzyl-piperidin-4-yl)-(2-fluoro-4-trifluoromethyl-phenyl)-methanone | 13.66 mmol, 5.0 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)C1=C(C=C(C=C1)C(F)(F)F)F | C20H19F4NO
reactant | hydroxylamine hydrochloride | 16.39 mmol, 1.1 g | Cl.NO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (1-Benzyl-piperidin-4-yl)-(2-fluoro-4-trifluoromethyl-phenyl)-methanone oxime | 2.1 g, 40% | C(C1=CC=CC=C1)N1CCC(CC1)C(=NO)C1=C(C=C(C=C1)C(F)(F)F)F | C20H20F4N2O
